**** Spectral regrowth in a Cann behavioral model ****

.options  

********** Multitone Voltage Source ***********
vsource:v1	1001	0	f=	9.250000E+05	vac=	0.0013775000	phase=	63.449
vsource:v2	1002	1001	f=	9.260000E+05	vac=	0.0011847000	phase=	136.278
vsource:v3	1003	1002	f=	9.270000E+05	vac=	0.0020894000	phase=	-20.859
vsource:v4	1004	1003	f=	9.280000E+05	vac=	0.0039614000	phase=	141.526
vsource:v5	1005	1004	f=	9.290000E+05	vac=	0.0021607000	phase=	100.783
vsource:v6	1006	1005	f=	9.300000E+05	vac=	0.0054905000	phase=	-13.462
vsource:v7	1007	1006	f=	9.310000E+05	vac=	0.0004042900	phase=	-157.111
vsource:v8	1008	1007	f=	9.320000E+05	vac=	0.0003792100	phase=	-115.485
vsource:v9	1009	1008	f=	9.330000E+05	vac=	0.0054385000	phase=	66.028
vsource:v10	1010	1009	f=	9.340000E+05	vac=	0.0125490000	phase=	166.037
vsource:v11	1011	1010	f=	9.350000E+05	vac=	0.0083567000	phase=	-51.838
vsource:v12	1012	1011	f=	9.360000E+05	vac=	0.0098880000	phase=	-66.687
vsource:v13	1013	1012	f=	9.370000E+05	vac=	0.0104270000	phase=	4.536
vsource:v14	1014	1013	f=	9.380000E+05	vac=	0.0102180000	phase=	-90.860
vsource:v15	1015	1014	f=	9.390000E+05	vac=	0.0092217000	phase=	-137.728
vsource:v16	1016	1015	f=	9.400000E+05	vac=	0.0151910000	phase=	47.178
vsource:v17	1017	1016	f=	9.410000E+05	vac=	0.0228010000	phase=	97.237
vsource:v18	1018	1017	f=	9.420000E+05	vac=	0.0150780000	phase=	102.720
vsource:v19	1019	1018	f=	9.430000E+05	vac=	0.0161900000	phase=	39.368
vsource:v20	1020	1019	f=	9.440000E+05	vac=	0.0275870000	phase=	-85.187
vsource:v21	1021	1020	f=	9.450000E+05	vac=	0.0088599000	phase=	29.012
vsource:v22	1022	1021	f=	9.460000E+05	vac=	0.0094418000	phase=	107.200
vsource:v23	1023	1022	f=	9.470000E+05	vac=	0.0089996000	phase=	150.854
vsource:v24	1024	1023	f=	9.480000E+05	vac=	0.0200280000	phase=	100.021
vsource:v25	1025	1024	f=	9.490000E+05	vac=	0.0092868000	phase=	165.648
vsource:v26	1026	1025	f=	9.500000E+05	vac=	0.0264480000	phase=	-56.847
vsource:v27	1027	1026	f=	9.510000E+05	vac=	0.0219420000	phase=	-179.319
vsource:v28	1028	1027	f=	9.520000E+05	vac=	0.0161020000	phase=	39.121
vsource:v29	1029	1028	f=	9.530000E+05	vac=	0.0213140000	phase=	158.217
vsource:v30	1030	1029	f=	9.540000E+05	vac=	0.0108490000	phase=	151.519
vsource:v31	1031	1030	f=	9.550000E+05	vac=	0.0041526000	phase=	33.649
vsource:v32	1032	1031	f=	9.560000E+05	vac=	0.0059608000	phase=	87.176
vsource:v33	1033	1032	f=	9.570000E+05	vac=	0.0175460000	phase=	-142.621
vsource:v34	1034	1033	f=	9.580000E+05	vac=	0.0195420000	phase=	-158.010
vsource:v35	1035	1034	f=	9.590000E+05	vac=	0.0172680000	phase=	-89.656
vsource:v36	1036	1035	f=	9.600000E+05	vac=	0.0166850000	phase=	-25.901
vsource:v37	1037	1036	f=	9.610000E+05	vac=	0.0152740000	phase=	-55.199
vsource:v38	1038	1037	f=	9.620000E+05	vac=	0.0190350000	phase=	80.902
vsource:v39	1039	1038	f=	9.630000E+05	vac=	0.0438260000	phase=	-24.730
vsource:v40	1040	1039	f=	9.640000E+05	vac=	0.0227870000	phase=	40.195
vsource:v41	1041	1040	f=	9.650000E+05	vac=	0.0261250000	phase=	156.624
vsource:v42	1042	1041	f=	9.660000E+05	vac=	0.0180530000	phase=	-177.508
vsource:v43	1043	1042	f=	9.670000E+05	vac=	0.0255210000	phase=	68.698
vsource:v44	1044	1043	f=	9.680000E+05	vac=	0.0264650000	phase=	-163.081
vsource:v45	1045	1044	f=	9.690000E+05	vac=	0.0109690000	phase=	167.464
vsource:v46	1046	1045	f=	9.700000E+05	vac=	0.0041949000	phase=	-1.736
vsource:v47	1047	1046	f=	9.710000E+05	vac=	0.0532830000	phase=	-153.381
vsource:v48	1048	1047	f=	9.720000E+05	vac=	0.0334690000	phase=	13.045
vsource:v49	1049	1048	f=	9.730000E+05	vac=	0.0226990000	phase=	74.628
vsource:v50	1050	1049	f=	9.740000E+05	vac=	0.0098678000	phase=	-60.493
vsource:v51	1051	1050	f=	9.750000E+05	vac=	0.0217500000	phase=	97.311
vsource:v52	1052	1051	f=	9.760000E+05	vac=	0.0414480000	phase=	-80.558
vsource:v53	1053	1052	f=	9.770000E+05	vac=	0.0252780000	phase=	-80.237
vsource:v54	1054	1053	f=	9.780000E+05	vac=	0.0171280000	phase=	-59.376
vsource:v55	1055	1054	f=	9.790000E+05	vac=	0.0063611000	phase=	40.383
vsource:v56	1056	1055	f=	9.800000E+05	vac=	0.0176180000	phase=	-132.978
vsource:v57	1057	1056	f=	9.810000E+05	vac=	0.0142350000	phase=	-172.031
vsource:v58	1058	1057	f=	9.820000E+05	vac=	0.0290570000	phase=	173.354
vsource:v59	1059	1058	f=	9.830000E+05	vac=	0.0421390000	phase=	15.909
vsource:v60	1060	1059	f=	9.840000E+05	vac=	0.0191440000	phase=	15.894
vsource:v61	1061	1060	f=	9.850000E+05	vac=	0.0221270000	phase=	33.732
vsource:v62	1062	1061	f=	9.860000E+05	vac=	0.0299330000	phase=	52.658
vsource:v63	1063	1062	f=	9.870000E+05	vac=	0.0324670000	phase=	109.922
vsource:v64	1064	1063	f=	9.880000E+05	vac=	0.0511340000	phase=	-87.445
vsource:v65	1065	1064	f=	9.890000E+05	vac=	0.0059064000	phase=	-9.448
vsource:v66	1066	1065	f=	9.900000E+05	vac=	0.0111490000	phase=	-116.585
vsource:v67	1067	1066	f=	9.910000E+05	vac=	0.0430790000	phase=	139.332
vsource:v68	1068	1067	f=	9.920000E+05	vac=	0.0474180000	phase=	-57.259
vsource:v69	1069	1068	f=	9.930000E+05	vac=	0.0077872000	phase=	165.430
vsource:v70	1070	1069	f=	9.940000E+05	vac=	0.0325620000	phase=	126.589
vsource:v71	1071	1070	f=	9.950000E+05	vac=	0.0253500000	phase=	-67.386
vsource:v72	1072	1071	f=	9.960000E+05	vac=	0.0393890000	phase=	19.321
vsource:v73	1073	1072	f=	9.970000E+05	vac=	0.0285820000	phase=	16.721
vsource:v74	1074	1073	f=	9.980000E+05	vac=	0.0582060000	phase=	156.761
vsource:v75	1075	1074	f=	9.990000E+05	vac=	0.0278590000	phase=	-19.852
vsource:v76	1076	1075	f=	1.000000E+06	vac=	0.0209650000	phase=	-176.821
vsource:v77	1077	1076	f=	1.001000E+06	vac=	0.0391550000	phase=	-12.272
vsource:v78	1078	1077	f=	1.002000E+06	vac=	0.0165680000	phase=	-39.999
vsource:v79	1079	1078	f=	1.003000E+06	vac=	0.0446130000	phase=	118.963
vsource:v80	1080	1079	f=	1.004000E+06	vac=	0.0387420000	phase=	51.421
vsource:v81	1081	1080	f=	1.005000E+06	vac=	0.0548740000	phase=	-62.011
vsource:v82	1082	1081	f=	1.006000E+06	vac=	0.0399160000	phase=	-165.132
vsource:v83	1083	1082	f=	1.007000E+06	vac=	0.0155880000	phase=	62.395
vsource:v84	1084	1083	f=	1.008000E+06	vac=	0.0389220000	phase=	175.543
vsource:v85	1085	1084	f=	1.009000E+06	vac=	0.0388700000	phase=	-25.775
vsource:v86	1086	1085	f=	1.010000E+06	vac=	0.0536130000	phase=	48.598
vsource:v87	1087	1086	f=	1.011000E+06	vac=	0.0324760000	phase=	38.989
vsource:v88	1088	1087	f=	1.012000E+06	vac=	0.0482760000	phase=	105.797
vsource:v89	1089	1088	f=	1.013000E+06	vac=	0.0258780000	phase=	99.334
vsource:v90	1090	1089	f=	1.014000E+06	vac=	0.0038263000	phase=	65.151
vsource:v91	1091	1090	f=	1.015000E+06	vac=	0.0093204000	phase=	129.517
vsource:v92	1092	1091	f=	1.016000E+06	vac=	0.0381810000	phase=	-129.678
vsource:v93	1093	1092	f=	1.017000E+06	vac=	0.0538900000	phase=	172.317
vsource:v94	1094	1093	f=	1.018000E+06	vac=	0.0288720000	phase=	136.112
vsource:v95	1095	1094	f=	1.019000E+06	vac=	0.0383900000	phase=	88.299
vsource:v96	1096	1095	f=	1.020000E+06	vac=	0.0412460000	phase=	-70.010
vsource:v97	1097	1096	f=	1.021000E+06	vac=	0.0089519000	phase=	73.717
vsource:v98	1098	1097	f=	1.022000E+06	vac=	0.0144950000	phase=	151.570
vsource:v99	1099	1098	f=	1.023000E+06	vac=	0.0109560000	phase=	-102.250
vsource:v100	1100	1099	f=	1.024000E+06	vac=	0.0384460000	phase=	-121.920
vsource:v101	1101	1100	f=	1.025000E+06	vac=	0.0272320000	phase=	68.314
vsource:v102	1102	1101	f=	1.026000E+06	vac=	0.0320440000	phase=	174.609
vsource:v103	1103	1102	f=	1.027000E+06	vac=	0.0330920000	phase=	-45.713
vsource:v104	1104	1103	f=	1.028000E+06	vac=	0.0453780000	phase=	155.484
vsource:v105	1105	1104	f=	1.029000E+06	vac=	0.0139160000	phase=	128.973
vsource:v106	1106	1105	f=	1.030000E+06	vac=	0.0340450000	phase=	-25.058
vsource:v107	1107	1106	f=	1.031000E+06	vac=	0.0085393000	phase=	-135.797
vsource:v108	1108	1107	f=	1.032000E+06	vac=	0.0075175000	phase=	-126.303
vsource:v109	1109	1108	f=	1.033000E+06	vac=	0.0162110000	phase=	71.184
vsource:v110	1110	1109	f=	1.034000E+06	vac=	0.0452980000	phase=	171.555
vsource:v111	1111	1110	f=	1.035000E+06	vac=	0.0267110000	phase=	-61.375
vsource:v112	1112	1111	f=	1.036000E+06	vac=	0.0292640000	phase=	-74.141
vsource:v113	1113	1112	f=	1.037000E+06	vac=	0.0234230000	phase=	-2.355
vsource:v114	1114	1113	f=	1.038000E+06	vac=	0.0264600000	phase=	-96.085
vsource:v115	1115	1114	f=	1.039000E+06	vac=	0.0230840000	phase=	-136.605
vsource:v116	1116	1115	f=	1.040000E+06	vac=	0.0263760000	phase=	46.857
vsource:v117	1117	1116	f=	1.041000E+06	vac=	0.0394010000	phase=	100.737
vsource:v118	1118	1117	f=	1.042000E+06	vac=	0.0238100000	phase=	108.713
vsource:v119	1119	1118	f=	1.043000E+06	vac=	0.0226680000	phase=	37.956
vsource:v120	1120	1119	f=	1.044000E+06	vac=	0.0428190000	phase=	-87.875
vsource:v121	1121	1120	f=	1.045000E+06	vac=	0.0097164000	phase=	23.047
vsource:v122	1122	1121	f=	1.046000E+06	vac=	0.0109570000	phase=	118.831
vsource:v123	1123	1122	f=	1.047000E+06	vac=	0.0116060000	phase=	163.367
vsource:v124	1124	1123	f=	1.048000E+06	vac=	0.0211910000	phase=	105.035
vsource:v125	1125	1124	f=	1.049000E+06	vac=	0.0110800000	phase=	176.941
vsource:v126	1126	1125	f=	1.050000E+06	vac=	0.0272700000	phase=	-61.433
vsource:v127	1127	1126	f=	1.051000E+06	vac=	0.0220570000	phase=	-174.792
vsource:v128	1128	1127	f=	1.052000E+06	vac=	0.0120980000	phase=	36.765
vsource:v129	1129	1128	f=	1.053000E+06	vac=	0.0182800000	phase=	164.553
vsource:v130	1130	1129	f=	1.054000E+06	vac=	0.0089244000	phase=	164.536
vsource:v131	1131	1130	f=	1.055000E+06	vac=	0.0013343000	phase=	3.493
vsource:v132	1132	1131	f=	1.056000E+06	vac=	0.0026528000	phase=	110.546
vsource:v133	1133	1132	f=	1.057000E+06	vac=	0.0128930000	phase=	-140.209
vsource:v134	1134	1133	f=	1.058000E+06	vac=	0.0130880000	phase=	-153.713
vsource:v135	1135	1134	f=	1.059000E+06	vac=	0.0109710000	phase=	-94.979
vsource:v136	1136	1135	f=	1.060000E+06	vac=	0.0084301000	phase=	-37.565
vsource:v137	1137	1136	f=	1.061000E+06	vac=	0.0079845000	phase=	-66.497
vsource:v138	1138	1137	f=	1.062000E+06	vac=	0.0068295000	phase=	86.505
vsource:v139	1139	1138	f=	1.063000E+06	vac=	0.0173840000	phase=	-29.970
vsource:v140	1140	1139	f=	1.064000E+06	vac=	0.0068301000	phase=	36.071
vsource:v141	1141	1140	f=	1.065000E+06	vac=	0.0088977000	phase=	166.427
vsource:v142	1142	1141	f=	1.066000E+06	vac=	0.0061961000	phase=	-165.757
vsource:v143	1143	1142	f=	1.067000E+06	vac=	0.0051024000	phase=	70.726
vsource:v144	1144	1143	f=	1.068000E+06	vac=	0.0068852000	phase=	-154.647
vsource:v145	1145	1144	f=	1.069000E+06	vac=	0.0027002000	phase=	-163.029
vsource:v146	1146	1145	f=	1.070000E+06	vac=	0.0012216000	phase=	-86.774
vsource:v147	1147	1146	f=	1.071000E+06	vac=	0.0073418000	phase=	-147.032
vsource:v148	1148	1147	f=	1.072000E+06	vac=	0.0024547000	phase=	-10.925
vsource:v149	1	1148	f=	1.073000E+06	vac=	0.0002844600	phase=	105.482
********** End Multitone Voltage Source ***********

**************** Analysis and Circuit Setup **********************
.svhb n_freqs=3 fundamental=9.25e5 regrowth=1 n_fund=149 f_step=1e3 

* Output 
resistor:rload 3 0 r=50
*
* Nonlinearity
abmvcann:a11 1 3 0  g=19.2308 l=1 s=2 rout=50 

**************** End Analysis and Circuit Setup **********************

.out write "title('Freq Domain Output'); xlabel('freq'); ylabel('output spectrum (dB)');" 
+"plot(dataf1(:,1),dataf1(:,2));" "];" 
+term 3 vf "dataf1=[" in "vo_cann.db"

.out write "title('Time Domain Output'); xlabel('time'); ylabel('Waveform');" 
+"plot(datat(:,1),datat(:,2));" "];" 
+term 3 vf invfft "datat=[" in "vo_cann.wave"

.end

