**** Test netlist for k element ****

.options f0 = 5.1e9 method = 2 jupdm = 1

.tran2 tstop = 10e-3 tstep = .1e-3  nst=0 msv=0 deriv=0 im=1

ind:ind1 2 0 l=100u
ind:ind2 3 0 l=100u

k:k1 0 coupling=0.9 l1="ind:ind1" l2="ind:ind2"

vsource:vgs 1 0 vdc=2.5V vac=1V f=1e3 

res:r0 1 2 r=100
res:r1 3 0 r=100

.out plot term 3 vt in "k.tran"
.out plot term 2 vt in "k.tran2"

.end

