**nfet transient analysis*** 
 
.tran2 tstep=0.1ns tstop=10ns 

jfetn:m1 2 3 0 

resistor:rd 1 2 r=1000

vsource:vdd 1 0 vdc=5v

vsource:vgs 3 0 vdc=2.5V vac=1V f=1e9 phase=270
*vpulse:vgs 3 0 v1=0v v2=5.0v td=0 tr=0.2n tf=0.2n pw=5ns per=10ns

.out plot term 2 vt in "vds.out"
*.out plot term 3 vt in "vin.out"

.end
