*****Test netlist for Nmos9 level 903 model******

mosn9:m1 1 3 0 4

vsource:vds 1 0 vdc=0.1v

vsource:vsb 0 4 vdc=0

vsource:vgs 3 0  

.dc sweep="vsource:vgs" start=0.6 stop=6.2 step=0.6

.out plot element "mosn9:m1" 0 it in "nmos9_id.dc" 

.end
