* Electro-thermal General Purpose Operational Amplifier
* Basic Linear Amplifier: Gain = -r1/r2

.tran2 tstop=4e-4 tstep=1e-6

.ref 0

vsource:vs 6 0 vdc=5 vac=2 f=10000

*vpulse:Vin 6 0 v1=3 v2=6 tr=1e-3 tf=1e-3 per=4e-3 pw=1e-3
vpulse:Tin 101 0 v1=0 v2=100 tr=1e-5 td=2e-4 per=4e-4 pw=2e-4

vsource:vdd 1 0 vdc=10
vsource:gnd 2 0 vdc=5

r:r1 3 4 r=1000
r:r2 6 3 r=500
*r:rl 4 2 r=1000
r:rt 101 0 r=100

* name  Vdd V+ V- Vout Temp gnd
opampt:u1 1  2  3    4   101  0  gain=0.2 pdr=1 nomt=25
+	rin=2000000 rout=80 psr=1000 cin=0.00000005 cout=0.000001
+	rint=12500 routt=-1 psrt=-27
+	

.out plot term 6 vt in "input.out"
.out plot term 4 vt in "output.out"
.out plot term 101 vt in "temp.out"
.end
