Open circuit test

.options f0 = 10MEG
*.options f0 = \ 10MEG 13MEG 1MEG \

* .svtr tstart = 0.  tstop = 1000e-9
* + spts = 2048
* + sfrq = 2.5e9
* + rcomp = 100
* + impulse = 0
* + lpfcornerfrequency = 0

.svtr  tstop = 250e-9 n_freqs = 512 tstep = .2e-9 opt=1 adjust=1 imp_tol=1
* + n_samples = 450
* .dc tolerance = 1e-16 

* open:dummy 1 0
isource:3 1 0
vsource:vin 2 0 vdc = 4.5 vac=.03 f=f0 delay=0 phase=90
* vsin:vin 2 0 dc = 4.5 mag = 0. freq = 1e9 

resistor:r1 1 2 r=100
capacitor:c1 1 0 c=.1e-9 time_d=0
resistor:r2 1 0 r=1e2
inductor:l1 1 0 l=100n time_d=0 

* .out plot element "isource:3" 0 xt in "out.x"
* .out plot element "isource:3" 0 ut in "out.v"
* .out write term 1 vt in "out.v1"
* .out plot element "vsource:vin" 0 it in "out.i"
* .out plot element "vsource:vin" 0 it in "out.i"
*.out plot element "vsin:vsc1" 0 it in "source.current"

.end
