*****Test netlist for Pmos9 level 903 model******

* D G S B

mosp9:m9 1 3 0 4

*res:rd 1 2 r=1000

vsource:vds 1 0 vdc=-0.1v

vsource:vsb 0 4 vdc=0

vsource:vgs 3 0  

.dc sweep="vsource:vgs" start=-0.6 stop=-6.2 step=-0.6

.out plot element "mosp9:m9" 0 it in "mosp9_id.dc" 

.end
