**** resistorPhyPoly dc characteristic ****

* This choice of conductance coefficients should result in positive resistor
* values for Vctrl down to about -5V for polyarg = true or false.

.dc sweep="vsource:vbias" start=-3.0 stop=3.0 step=0.2

resistorphypoly:r1 1 2 0 r=1000.0 coeff0=1.0 coeff1=0.1 coeff2=0.0 coeff3=0.002 coeff4=0.0
+ coeff5=0.00004 polyarg=0 tc1=0.0 tc2=0.0 tc1c=0.0 tc2c=0.0 tnom=300.0 tdev=300.0 c=0.0
resistor:r2 2 0 r = 1000.0
vsource:vbias 1 0  vdc = -3.0

.out write term 1 vt in "poly_dc_vt1.out"
.out write term 2 vt in "poly_dc_vt2.out"

.end
