Simple Thermal VCSEL Diode (Mena et al. Model)
* DC sweep analysis "dc" with an input current sweep
******************************************************

*.svtr tstop = 5e-9 n_freqs = 4096 tstep = .002e-9 opt=0 adjust=0 imp_tol=30 
*+ rcomp = 100 deriv=0

.dc sweep="vsource:vs" start=1m stop=35.3m step=.003m 

vsource:vs 1 0 vdc=1m 

*subcircuit to convert current to voltage since current 
*fREEDA implementation have only a voltage sweep
vsource:vp 1 11 vac=0
g:g1 11 2 0 0 g=-1 ri=1e12 ro=1e12

*isource:is0 2 0 idc=15m iac=0 f=2e9 phase=-90

vsource:vcurrf 2 3 vac=0v 
r:rin 3 0 r=1e8

vcsel:ld1 3 0 4 "nref" 5 "tref" 6 "oref" 7 "pref" 8 "lref" t0=20
*+ etai=1 beta=1e-6 tn=5e-9 k=2.6e-8 g0=1.6e4 n0= 1.654e7 tp=2.064e-12
*+ a0=-2.734e-4 a1=-2.125e-5 a2=1.837e-7 a3=3.183e-10 a4=0 rho=2.4e-9
*+ n=3.5 lambda0=863e-9 rth=9.8e3 tth=1e-6 t0=20

open:o1 4 "nref"
*r:rnn 4 "nref" r=1

open:o2 5 "tref"
*r:rth 5 55 r=2.6e3
*c:cth 5 55 c=0.384615n
*vsource:vt0 55 "tref" vdc=20
*r:rtt 5 "tref" r=1e8

open:o3 6 "oref"
*r:roo 6 "oref" r=1

*open:o4 7 "pref"
r:rpp 7 "pref" r=1

*open:o5 8 "lref"
r:rll 8 "lref" r=1

.ref "nref"
.ref "tref"
.ref "oref"
.ref "pref"
.ref "lref"

*.out plot element "vcsel:ld1" 1 ut in "v_svcsel_svtr_freeda"
*.out plot element "vcsel:ld1" 4 ut in "sn_beta_svcsel_svtr_freeda"

.out plot term 3 vt in "SVCSELD_v_T0_20_dc_freeda"
.out plot term 4 vt in "SVCSELD_n_T0_20_dc_freeda"
.out plot term 5 vt in "SVCSELD_t_T0_20_dc_freeda"
.out plot term 6 vt in "SVCSELD_o_T0_20_dc_freeda"
.out plot term 7 vt in "SVCSELD_p_T0_20_dc_freeda"
.out plot term 8 vt in "SVCSELD_l_T0_20_dc_freeda"
.end
