Simple Thermal VCSEL Diode (Mena et al. Model)
* Time-marching Transient analysis "tran2" with a current pulse input
**********************************************************************

.options f0=1e9 f1=1.01e9

*.tran2 tstop=5n tstep=.00008n im=0 out_steps=100
*.svhb n_freqs=5 n_freqs2=5 fundamental=f0 fundamental2=f1 deriv=0 steps=0
.svhb n_freqs=45 fundamental=f0 deriv=0 steps=0

*vpulse:vs  1 0 v1=1m v2=15m  td=0n  tr=.1n  tf=.1n  pw=4n  per=5n

*circuit to convert current to voltage since
*fREEDA does not have a current pulse
*vsource:vp 1 11 vac=0
*g:g1 11 2 0 0 g=-1 ri=1e12 ro=1e12

*vsource:vs 2 0 vdc=3 vac=.5 f=f0 phase=-90
isource:is0 2 0 idc=18m iac=0.633m f=f0 phase=-90
*isource:is1 2 0 idc=0m iac=0.633m f=f1 phase=-90

vsource:vcurrs 2 103 vac=0v
r:rin 3 0 r=1e5

*c:c1 103 0 c=0.21p
*l:l1 103 104 l=1.28n
*r:r1 104 105 r=0.3
*c:c2 105 0 c=0.35p

*r:r2 105 106 r=47.07

*c:c3 106 0 c=2.38p
*l:l2 106 107 l=0.33n
*r:r3 107 108 r=1.12

*r:r4 108 109 r=1.21
*c:c4 109 0 c=7.57p
*r:r5 108 3 r=3.92

l:lp 103 104 l=2.28n
c:cp 104 0 c=0.39p
r:rs 104 3 r=76

vcsel:ld1 3 0 4 "nref" 5 "tref" 6 "oref" 7 "pref" 8 "lref" t0=20

*open:o1 4 "nref"
resistor:rnout 4 "nref" r=1e5

*open:o2 5 "tref"
*r:rth 5 55 r=2.6e3
*c:cth 5 55 c=0.384615n
*vsource:vt0 55 "tref" vdc=20
resistor:rtout 5 "tref" r=1e5

*open:o3 6 "oref"
resistor:roout 6 "oref" r=1e5

*open:o4 7 "pref"
resistor:rpout 7 "pref" r=1

*open:o5 8 "lref"
resistor:rlout 8 "lref" r=1

.ref "nref"
.ref "tref"
.ref "oref"
.ref "pref"
.ref "lref"

.out plot term 3 vf mag in  "v_svcseld_hb_mag"
.out plot term 7 vf mag in  "sn_svcseld_hb_mag"
.out plot term 3 vf invfft 10 repeat in  "v_svcseld_hb_freeda"
.out plot element "vsource:vcurrs" 0 if invfft 10 repeat in "i_svcseld_hb_freeda"
.out plot term 7 vf invfft 10 repeat in  "sn_svcseld_hb_freeda"
.out plot term 8 vf invfft 10 repeat in  "l_svcseld_hb_freeda"

*.out plot term 3 vt in "SVCSELD_v_T0_20_pulse_freeda"
*.out plot term 4 vt in "SVCSELD_n_T0_20_pulse_freeda"
*.out plot term 5 vt in "SVCSELD_t_T0_20_pulse_freeda"
*.out plot term 6 vt in "SVCSELD_o_T0_20_pulse_freeda"
*.out plot term 7 vt in "SVCSELD_p_T0_20_pulse_freeda"
*.out plot term 8 vt in "SVCSELD_l_T0_20_pulse_freeda"
.end
