Gyrator Test 1
*sending a signal forward through the gyrator

*.ac start = .01e6 stop = 20e9 n_freqs = 1000
.tran2 tstart=0.1e-6 tstop=5e-6 tstep=.01e-6

*4-port circuit
vsource:vin 1 0 vac=2 f=1e6
resistor:rin 1 2 r=50
*gyrator:gyr1 2 3 0 0 r1=50 f=1e6
*gyrator:gyr1 2 3 0 0 r1=50 x1=50 f=1e6
gyrator:gyr1 2 3 0 0 r1=50 l1=8e-6 f=1e6
resistor:rload 3 0 r=50

*2-port circuit
*vsource:vin 1 0 vac=2 f=1
*resistor:rin 1 2 r=50
*gyr:gin 2 3 g1=.02 g2=.02
*resistor:rload 3 0 r=50

.out plot term 3 vt in "v3.out"
.out plot term 2 vt in "v2.out"
.out plot term 1 vt in "v1.out"
.out plot term 0 vt in "v0.out"

*.out plot term 3 vf mag in "v3mag.out"
*.out plot term 2 vf mag in "v2mag.out"
*.out plot term 1 vf mag in "v1mag.out"
*.out plot term 0 vf mag in "v0mag.out"

.end
